US07456195B2
1-(3-Cyanophenyl)urea
To 3-cyanophenyl isocyanate (1.0 g, 6.90 mmol) in THF (5 mL), ammonium hydroxide (1.7 mL, 13.8 mmol) was added. The reaction was stirred for 2 h at rt. The solvent was evaporated and the crude residue was redissolved in ethyl acetate. The organic layer was washed with water and brine and dried over sodium sulfate. The solvent was evaporated and the crude residue was purified by flash column chromatography to 41A (0.37 g).

reactant | 3-cyanophenyl isocyanate | 6.90 mmol, 1.0 g | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
reactant | ammonium hydroxide | 13.8 mmol, 1.7 mL | [OH-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(3-Cyanophenyl)urea | C(#N)C=1C=C(C=CC1)NC(=O)N | C8H7N3O
